US09388196B2
Step 1: 8-(4-bromothiazol-2-yl)-3-oxa-8-azabicyclo[3.2.1]octane
To a stirred solution of 2,4-dibromothiazole (0.585 g, 2.41 mmol) in DMF (10 ml) were added 3-oxa-8-azabicyclo[3.2.1]octane (prepared according to the procedure given in WO 2010/120854, 0.3 g, 2.65 mmol) and DIPEA (0.47 gm, 0.63 ml, 3.62 mmol) under a stream of nitrogen. The reaction mixture was then stirred at 80° C. for 18 hrs and the progress of reaction was monitored by TLC. The reaction mixture was cooled to room temperature; quenched with cold water (20 ml) and extracted with ethyl acetate (3×30 ml). The combined organic layer was washed with water (2×10 ml), dried over sodium sulphate and concentrated to give crude compound; which was purified by flash column chromatography using 20% ethyl acetate in hexanes as an eluent to obtain the title compound (0.31 g, 46.7%). MS: m/z 276 (M+1).

reactant | 2,4-dibromothiazole | 2.41 mmol, 0.585 g | BrC=1SC=C(N1)Br | C3HBr2NS
reactant | 3-oxa-8-azabicyclo[3.2.1]octane | C12COCC(CC1)N2 | C6H11NO
reactant | DIPEA | 3.62 mmol, 0.63 ml, 0.47 gm | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 8-(4-bromothiazol-2-yl)-3-oxa-8-azabicyclo[3.2.1]octane | 0.31 g, 46.7% | BrC=1N=C(SC1)N1C2COCC1CC2 | C9H11BrN2OS
